US06313107B1
(4-Bromo-2-methyl-phenyl)-methanol (Intermediate 133)
A solution of methyl 4-bromo-2-methyl-benzoate (1.05 g, 4.58 mmols) in 10 mL of Et2O was cooled to 0° C. and treated with LiAlH4 (177.0 mg, 4.58 mmols), stirred for 3 hours, and then carefully quenched with H2O. The mixture was extracted with Et2O and the combined organic layers were washed with H2O and saturated aqueous NaCl, dried (MgSO4), and concentrated under reduced pressure. The title compound, 830.0 mg (90%), was isolated by column chromatography (10-30% EtOAc-hexanes) as a colorless oil.

reactant | methyl 4-bromo-2-methyl-benzoate | 4.58 mmols, 1.05 g | BrC1=CC(=C(C(=O)OC)C=C1)C | C9H9BrO2
reactant | LiAlH4 | 4.58 mmols, 177.0 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | (4-Bromo-2-methyl-phenyl)-methanol | BrC1=CC(=C(C=C1)CO)C | C8H9BrO
